US07230098B2
To a solution of 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-benzoic acid (50 mg, 0.13 mmol), HOBT (21 mg, 0.156 mmol), and EDC (30 mg, 0.156 mmol) in DMF (2 mL) was added N,N-diethylethylenediamine (0.022 mL, 0.156 mmol). The reaction was stirred at room temperature for 24 hr, then diluted with EtOAc, and partitioned with H2O. The organic was separated and the aqueous was extracted with EtOAc. The organic layers were combined, washed with saturated NaHCO3, and concentrated to dryness under vacuum. The material was purified using column chromatography (silica gel, 99:1 to 95:5 CH2Cl2/MeOH) to give 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-N-(2-diethylamino-ethyl)-benzamide (45 mg, 72% yield) as a white solid.

reactant | 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-benzoic acid | 0.13 mmol, 50 mg | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C=CC=C1Cl)Cl | C19H14Cl2N2O3
reactant | HOBT | 0.156 mmol, 21 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.156 mmol, 30 mg
reactant | N,N-diethylethylenediamine | 0.156 mmol, 0.022 mL | C(C)N(CCN)CC | C6H16N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-N-(2-diethylamino-ethyl)-benzamide | 45 mg, 72% yield | NC1=C(C=C(C=N1)C1=CC=C(C(=O)NCCN(CC)CC)C=C1)OCC1=C(C=CC=C1Cl)Cl | C25H28Cl2N4O2
